US05753679
0.11 g (0.00032 mol) of 1-benzyl-piperidin-4-yl 2-amino-4-chloro-benzoate was dissolved in 10 ml of ether, filtered, diluted with 1 ml of methanol and treated with 1 ml of 1N ethereal HCI. The mixture was stirred for 2 hrs. The separated precipitate was filtered off and dried in a high vacuum. 0.05 g (41%) of 1-benzyl-piperidin-4-yl 2-amino-4-chloro-benzoate hydrochloride (1:1) was obtained as white crystals; m.p. 135°-137°.

reactant | 1-benzyl-piperidin-4-yl 2-amino-4-chloro-benzoate | 0.00032 mol, 0.11 g | NC1=C(C(=O)OC2CCN(CC2)CC2=CC=CC=C2)C=CC(=C1)Cl | C19H21ClN2O2
solvent | ether | 10 ml | CCOCC | C4H10O
product | 1-benzyl-piperidin-4-yl 2-amino-4-chloro-benzoate hydrochloride | 0.05 g, 41% | Cl.NC1=C(C(=O)OC2CCN(CC2)CC2=CC=CC=C2)C=CC(=C1)Cl | InChI=1S/C19H21ClN2O2.ClH/c20-15-6-7-17(18(21)12-15)19(23)24-16-8-10-22(11-9-16)13-14-4-2-1-3-5-14;/h1-7,12,16H,8-11,13,21H2;1H
